US08937091B2
2-(isopropylbenzyl)aminoethylphenylketone 8299
Acetophenone (17 mg), isopropylbenzylamine (149 mg), and paraformaldehyde (39 mg) were reacted in dioxane (0.2 ml) at 150° C. for 2 hours reaction.

reactant | Acetophenone | 17 mg | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | isopropylbenzylamine | 149 mg | C(C)(C)NCC1=CC=CC=C1 | C10H15N
reactant | paraformaldehyde | 39 mg | C=O | CH2O
reactant | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-(isopropylbenzyl)aminoethylphenylketone | C(C)(C)C(C1=CC=CC=C1)NCCC(=O)C1=CC=CC=C1 | C19H23NO
